US04921852
To a mixture of (2S,4R)-2-bromoacetyl-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.15 g) in a mixture of methanol (20 ml) and dichloromethane (15 ml) was added thioformamide (453 mg) at room temperature. After stirring at the same temperature for 4 hours, the mixture was poured into ethyl acetate and washed in turn with saturated aqueous sodium bicarbonate and brine. The dried organic layer was evaporated and the resulting oil was crystallized from a mixture of n-hexane and dichloromethane (100:1 V/V) to give (2S,4R)-4-methanesulfonyloxy-2-(thiazol-4-yl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (930 mg).

reactant | (2S,4R)-2-bromoacetyl-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.15 g | BrCC(=O)[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H17BrN2O8S
reactant | thioformamide | 453 mg | C(=S)N | CH3NS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 20 ml | CO | CH4O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (2S,4R)-4-methanesulfonyloxy-2-(thiazol-4-yl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 930 mg | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C=1N=CSC1 | C16H17N3O7S2
